Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex / Demerol / Codeine / Morphine / Plastic tape
 
Attending: ___
 
Chief Complaint:
Admission for G-J tube placement 
 
Major Surgical or Invasive Procedure:
Gastro-jejunostomy tube placement

 
History of Present Illness:
___ with PMH of multiple episodes of pancreatitis now with 
chronic pancreatitis, hx of partial pancreatectomy ___, 
multiple abdominal surgeries including splenectomy, 
appendectomy, cholecystectomy. She has also had sphincterotomy 
and placement of a pancreatic stent. She has been ruled out for 
cystic fibrosis in ___. 

Because of her ongoing evidence of pain he she was placed on TPN 
in ___, then received a feeding tube for three months in ___. 
She did well for several years and now over the last four months 
she has recurrent discomfort with epigastric pain all the time. 

She was seen by Dr. ___ consideration of replacement of the 
feeding tube. He believed she had chronic pancreatitis and given 
her improvement with a feeding tube previously she was referred 
for placement of GJ feeding tube. She has this procedure done 
today and had no complications.

She is now complaining of dull pain. She is willing to try TFs 
tonight
  
ROS: per HPi, otherwise she denies fever, chills, night sweats, 
headache, vision changes, rhinorrhea, congestion, sore throat, 
cough, shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria
  

 
Past Medical History:
# Recurrent pancreatitis: onset after partial pancreatectomy 
___, became recurrent ___ acute pancreatitis, ERCP with sphincterotomy and stent 
placement in pancreatic duct
- ___ acute episodes, ERCP with stent extension
- ___ acute pancreatitis, ERCP showed no duct stenosis
# hemolytic anemia: reaction to Keflex, treated with  
splenectomy ___.  
# s/p cholecystectomy ___  
# s/p appendectomy ___
# coagulase negative staphylococcus bacteremia secondary to PICC 
line infection ___
# RUE DVT secondary to central line ___, treated with warfarin
# ___ DVT & PE ___ post-op, treated with warfarin 
# rheumatoid arthritis (flares mostly in wrists & ankles)
# asthma: mild intermittent, URI-induced, rarely uses MDI
# hypothyroidism  
# s/p tubal ligation  ___
# depression / anxiety  

 
Social History:
___
Family History:
Father- lung cancer, died at age ___ in ___
sister- ___ 
Mother- osteoporosis, HTN, hypothyroidism, T2DM, chronic pain, 
alive

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS:  97.8 130/70 77 18 94%RA
General: well appearing, obese, no acute distress
HEENT: PERRLA
Neck:  no LAD
CV:  RRR no murmurs
Lungs: CTAB/L no w/r/r
Abdomen: soft, tenderness over GJ site, tenderness in 
epigastrum, multiple well healed scars, GJ tube with erythema, 
no purulence, no rebound, no guarding
GU: no foley
Ext: no edema
Neuro: moving all extremities
Skin: no rashes

DISCHARGE PHYSICAL EXAM:
========================
VS: 98.2F  BP 128/61  HR 59  RR 18 99% RA 
General: well appearing, obese, no acute distress
HEENT: PERRLA, anicteric sclera
Neck:  no LAD, no pain, supple
CV:  RRR no murmurs
Lungs: CTAB/L no w/r/r
Abdomen: soft, mild tenderness in epigastrum, multiple well 
healed scars, GJ tube without erythema,no rebound, no guarding
Ext: no edema, warm and well perfused 
Neuro: moving all extremities
Skin: no rashes
 
Pertinent Results:
LABS:
======
___ 10:20AM BLOOD WBC-8.2 RBC-3.58* Hgb-11.1* Hct-34.1 
MCV-95 MCH-31.0 MCHC-32.6 RDW-12.9 RDWSD-45.0 Plt ___
___ 06:15AM BLOOD Glucose-93 UreaN-12 Creat-0.9 Na-137 
K-4.6 Cl-104 HCO3-21* AnGap-17
___ 06:05AM BLOOD Calcium-8.9 Phos-3.6 Mg-2.2

IMAGING:
========
Perc Jtube placement ___:
IMPRESSION:  
Successful placement of a 16 ___ ___ gastrojejunostomy 
tube with its tip in the proximal jejunum.  The tube is ready 
for immediate use as the lumen terminates in the jejunum. 
 
Brief Hospital Course:
___ with PMH of multiple episodes of pancreatitis now with 
chronic pancreatitis, hx of partial pancreatectomy ___, 
multiple abdominal surgeries including splenectomy, 
appendectomy, cholecystectomy who presents with inability to 
tolerate normal diet now s/p placement of GJ tube.

#Nutrition: Patient was at one point on TPN in ___ and also 
received G/J-tube feeds for a 3 month period in ___ Patient had 
successful placement of G-J tube. She had mild incisional 
tenderness, and post procedure vomiting, but felt improved 
during her hospital course. Patient was at risk for malnutrition 
due to chronic pancreatitis and recent decline in oral intake, 
but exhibited no recent weight loss over the past six months. 
She was seen by nutrition consultants who recommended starting 
tube feeds on standard formula, monitoring GI tolerance closely. 
Since patient was still eating orally, her tube feed regimen 
(Jevity 1.5) was set to meet ~75% of needs, then adjust as 
needed. She was started on Jevity 1.5 @ 10ml/hr and advanced by 
10ml/hr q4h to goal of 35ml/hr providing: 1260kcal, 54g protein, 
638ml free water 100ml free water flush q6h. For pain at site of 
incision, patient was requiring home Percocet along with IV 
Dilaudid (as patient fairly opioid tolerant), transitioned to PO 
dilaudid and discharged on a limited prescription. 

CHRONIC ISSUES:
================
#Hypothyroidism: continued home synthroid

#Anxiety/Psych: continued home SSRI and Ativan as needed 

Transitional Issues:
======================
-Discharge Tube feeds: Jevity at 35 cc/h with ___ 
-f/u with gastroenterology to determine if nutrition is 
appropriate
-Since patient is still eating orally, started with tube feed 
regimen meeting ~75% of needs, then adjust as needed. 
-Consider stool elastase to rule out fat malabsorption and 
checking 25(OH)vitamin D and other fat soluble vitamins
-Full code 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO DAILY 
2. Citalopram 40 mg PO DAILY 
3. Levothyroxine Sodium 150 mcg PO DAILY 
4. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN pain 
5. Lorazepam 0.5 mg PO Q12H:PRN anxiety 

 
Discharge Medications:
1. Citalopram 40 mg PO DAILY 
2. Docusate Sodium 100 mg PO DAILY 
3. Levothyroxine Sodium 150 mcg PO DAILY 
4. Lorazepam 0.5 mg PO Q12H:PRN anxiety 
5. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN pain 
6. Nutrition
Jevity 1.5 @ 35ml/hr: 1260kcal, 54g protein, 638ml free water, 
100ml free water flush q6h, adjust PRN
Dispense 1 month supply, 2 refills 
7. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 4 mg 1 tablet(s) by mouth every 
four to six hours Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Chronic pancreatitis, need for tube feeds 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was our pleasure caring for you at ___ 
___. You were admitted because of you difficulty with 
eating, due to your history of pancreatitis and abdominal pain. 
You had a feeding tube placed through your stomach into your 
intestines. You were given tube feeding and you did well. Please 
follow the tube feed eating plan.

Please keep your appointments below.

We wish you the best
Your ___ care team 
 
Followup Instructions:
___